US07834051B2
2-chloro-4-[(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxopyrrolidin-1-yl]benzonitrile
Using 4-bromo-2-chlorobenzonitrile (615 mg), (4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one (423 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (241 mg), tris(dibenzylideneacetone)dipalladium(0) (125 mg) and cesium carbonate (1.31 g), and in the same manner as in Reference Example 18, the title compound was obtained as a colorless solid (yield: 431 mg, 60%).

reactant | 4-bromo-2-chlorobenzonitrile | 615 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | (4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one | 423 mg | O[C@]1(CC(N[C@H]1C)=O)C | C6H11NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 241 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 1.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 125 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-4-[(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxopyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@@](CC1=O)(C)O)C | C13H13ClN2O2
